US05618811
A. 4,4-Di(4-tolyl)-but-3-enoic acid
To a 500 mL round-bottomed flask equipped with condenser and nitrogen inlet were added 29.7 grams (141 mmol) 4,4'-dimethylbenzophenone and 141 mL t-butanol forming a solution, followed by 17.4 grams (155 mmol) potassium t-butoxide and 29.5 grams (170 mmol) diethyl succinate. The reaction was refluxed for 18 hours, cooled, and acidified with 6N hydrochloric acid, then poured into water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated, and the residue taken up in 200 mL glacial acetic acid. It was then treated with 70 mL 48% hydrobromic acid and refluxed for 36 hours. The reaction was cooled, partitioned between water and ethyl acetate, and the combined organic layers washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methylene chloride/methanol as eluant to afford the product as low melting solid, 25.0 grams (66%), Rf =0.25 in 5% methanol/methylene chloride on silica gel. This material was used directly in the next step.

reactant | 4,4'-dimethylbenzophenone | 141 mmol, 29.7 grams | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
reactant | potassium t-butoxide | 155 mmol, 17.4 grams | CC(C)([O-])C.[K+]
reactant | diethyl succinate | 170 mmol, 29.5 grams | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
solvent | t-butanol | 141 mL | C(C)(C)(C)O | C4H10O
product | 4,4-Di(4-tolyl)-but-3-enoic acid | C1(=CC=C(C=C1)C(=CCC(=O)O)C1=CC=C(C=C1)C)C | C18H18O2
